US08049014B2
Step (3): Preparation of 1-[4-(8-nitroquinolin-4-yloxy)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)urea (Compound of Formula 5)
4-(8-Nitroquinolin-4-yloxy)phenylamine (7.5 mg, 0.027 mmol) and 4-chloro-3-(trifluoromethyl)phenyl isocyanate (11.8 mg, 0.054 mmol) were dissolved in tetrahydrofuran, and stirred at room temperature for 12 hours. When the reaction was completed, the solvent was removed by vacuum distillation, and a white solid product was filtered to obtain 12.0 mg of the desired compound (yield 88.9%).

reactant | 4-(8-Nitroquinolin-4-yloxy)phenylamine | 0.027 mmol, 7.5 mg | [N+](=O)([O-])C=1C=CC=C2C(=CC=NC12)OC1=CC=C(C=C1)N | C15H11N3O3
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | 0.054 mmol, 11.8 mg | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[4-(8-nitroquinolin-4-yloxy)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)urea | 12.0 mg, yield 88.9% | [N+](=O)([O-])C=1C=CC=C2C(=CC=NC12)OC1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C23H14ClF3N4O4
